US04214094
(a) To 170 ml of absolute ethanol is added 1.48 g of sodium, and 8.4 g of 4-(N-phenylformimidoyl)phenol is added to the mixture at room temperature with stirring to prepare a solution. 12.5 g of ethyl 2-bromo-2-methylpropionate is added to the solution, and the mixture is refluxed under heating for 5 hours. After the reaction, the ethanol is distilled off. The residue is dissolved in ether and thereafter washed with 5% aqueous solution of sodium hydroxide and then with water. After drying the resulting mixture, the ether is distilled off to give 9.2 g of ethyl 2-[4-(N-phenylformimidoyl)phenoxy]-2-methylpropionate. Infrared absorption spectrum (liquid film) 1735, 1280, 1245, 1170, 1140, 1020 cm-1.

reactant | sodium | 1.48 g | [Na] | Na
reactant | 4-(N-phenylformimidoyl)phenol | 8.4 g | C1(=CC=CC=C1)N=CC1=CC=C(C=C1)O | C13H11NO
reactant | ethyl 2-bromo-2-methylpropionate | 12.5 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | ethyl 2-[4-(N-phenylformimidoyl)phenoxy]-2-methylpropionate | 9.2 g | C1(=CC=CC=C1)N=CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C19H21NO3
